US07790725B2
4,4,4-Trifluoro-1-phenyl-1,3-butanedione (10.8 g) and urea (6.01 g) were dissolved in ethanol (25 mL) and concentrated hydrochloric acid (5 mL) was added. The mixture was heated under reflux for 2.5 hr. The reaction solution was concentrated under reduced pressure, and water was added. The mixture washed with chloroform. A saturated a aqueous sodium hydrogen carbonate solution was added to the a aqueous layer and the precipitate was collected by filtration to give 2-hydroxy-4-phenyl-6-trifluoromethylpyrimidine (5.03 g) as a pale-pink crystalline powder.

reactant | 4,4,4-Trifluoro-1-phenyl-1,3-butanedione | 10.8 g | FC(C(CC(=O)C1=CC=CC=C1)=O)(F)F | C10H7F3O2
reactant | urea | 6.01 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-hydroxy-4-phenyl-6-trifluoromethylpyrimidine | 5.03 g | OC1=NC(=CC(=N1)C1=CC=CC=C1)C(F)(F)F | C11H7F3N2O
